US04190674
A mixture of 3-fluorobenzaldehyde (40 g), malonic acid (47 g), and an ethanolic solution (150 ml) containing pyridine (10 g) and piperidine (5 g) was heated at reflux with stirring for 8 hours. The reaction mixture was chilled and water (300 ml) was added, giving crystalline trans 3-fluorocinnamic acid which was removed by filtration, washed with water and dried. The trans 3-fluorocinnamic acid, m.p. 162°-163° C., was obtained in 84% yield (44.6 g).

reactant | 3-fluorobenzaldehyde | 40 g | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | malonic acid | 47 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | pyridine | 10 g | N1=CC=CC=C1 | C5H5N
reactant | piperidine | 5 g | N1CCCCC1 | C5H11N
solvent | water | 300 ml | O | H2O
product | trans 3-fluorocinnamic acid | 84% yield | FC=1C=C(/C=C/C(=O)O)C=CC1 | C9H7FO2
